US07425568B2
N-[6-(5-Nitropyridin-2-yloxy)-2-phenylchroman-4-yl]-acetamide
Acetic anhydride (60 μl) was added into a cooled solution of 6-(5-nitropyridin-2-yloxy)-2-phenylchroman-4-ylamine hydrochloride (100 mg) and pyridine (41 μl) in dry DMF. Resulting mixture was stirred for a further 20 hours at 0° C. Reaction was quenched with ice water and neutralised. Resulting mixture was extracted with dichloromethane, dried with Na2SO4 and evaporated. Mixture of diastereomers of N-[6-(5-nitropyridin-2-yloxy)-2-phenylchroman-4-yl]-acetamide was recrystallised from dichloromethane. (M)+=405 (24%), 301 (14%), 259 (100%), 242 (55%), 224 (96%).

reactant | Acetic anhydride | 60 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-(5-nitropyridin-2-yloxy)-2-phenylchroman-4-ylamine hydrochloride | 100 mg | Cl.[N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2C(CC(OC2=CC1)C1=CC=CC=C1)N
reactant | pyridine | 41 μl | N1=CC=CC=C1 | C5H5N
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[6-(5-Nitropyridin-2-yloxy)-2-phenylchroman-4-yl]-acetamide | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2C(CC(OC2=CC1)C1=CC=CC=C1)NC(C)=O | C22H19N3O5
